US05128356
Methyl 4-nitro-3-valerylaminobenzoate
To a solution of methyl 3-valerylaminobenzoate (2.3 g) in acetic anhydride (12 ml) was added dropwise fuming nitric acid (1.4 ml) while stirring under ice-cooling. To the mixture was added one drop of conc. sulfuric acid and the mixture was stirred for two hours. To the reaction mixture was added ice-water and it was extracted with ethyl acetate. The organic layer was washed with an aqueous solution of sodium bicarbonate and water and then dried. The solvent was evaporated to dryness, and the residue was purified by column chromatography on silica gel to afford a brown oil (1.0 g, 36%).

reactant | methyl 3-valerylaminobenzoate | 2.3 g | C(CCCC)(=O)NC=1C=C(C(=O)OC)C=CC1 | C13H17NO3
reactant | nitric acid | 1.4 ml | [N+](=O)(O)[O-] | HNO3
solvent | acetic anhydride | 12 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | sulfuric acid | one drop | S(O)(O)(=O)=O | H2O4S
product | Methyl 4-nitro-3-valerylaminobenzoate | 1.0 g, 36% | [N+](=O)([O-])C1=C(C=C(C(=O)OC)C=C1)NC(CCCC)=O | C13H16N2O5
